US04740504
Octyldimethylamine (20.4 grams; 0.130 mole) was heated with triethylamine borane (1.9 grams; 0.130 mole) at reflux temperature until 12.8 grams (98%) of triethylamine had been collected in a cold trap. The reaction residue was distilled at reduced pressure to give N-octyl-N,N-dimethylamine borane boiling at 98°-100° C./0.9 mm. Hg. (19.6 grams; 89% yield).

reactant | Octyldimethylamine | 0.130 mole, 20.4 grams | C(CCCCCCC)N(C)C | C10H23N
reactant | triethylamine borane | 0.130 mole, 1.9 grams | B.C(C)N(CC)CC
solvent | triethylamine | 12.8 grams | C(C)N(CC)CC | C6H15N
product | N-octyl-N,N-dimethylamine borane | 89% yield | B.C(CCCCCCC)N(C)C | InChI=1S/C10H23N.BH3/c1-4-5-6-7-8-9-10-11(2)3;/h4-10H2,1-3H3;1H3
